US05093328
(2S,4R)-1-Methyl-2-aminocarbonyl-4-hydroxypyrrolidine (540 mg) was dissolved in dry dimethylformamide (10 ml), and triphenylphosphine (1.78 g) was added thereto. To the resultant mixture, diethyl azodicarboxylate (1.07 ml) was added under nitrogen steam while ice-cooling, and the mixture was stirred for 35 minutes. Thioacetic acid (0.76 ml) was added to the mixture under ice-cooling, and stirring was continued for 30 minutes under ice-cooling and at room temperature for 4 hours. The reaction mixture was diluted with dichloromethane, washed with aqueous sodium bicarbonate solution and dried over magnesium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography to give (2S,4S)-1-methyl-2-aminocarbonyl-4-acetylthiopyrrolidine.

reactant | (2S,4R)-1-Methyl-2-aminocarbonyl-4-hydroxypyrrolidine | 540 mg | CN1[C@@H](C[C@H](C1)O)C(=O)N | C6H12N2O2
reactant | triphenylphosphine | 1.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.07 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Thioacetic acid | 0.76 ml | C(C)(=S)O | C2H4OS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,4S)-1-methyl-2-aminocarbonyl-4-acetylthiopyrrolidine | CN1[C@@H](C[C@@H](C1)SC(C)=O)C(=O)N | C8H14N2O2S
